US09388189B2
(S)-2-(1-((5-(1-(2-Methoxybenzyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1-(2-Methoxybenzyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (16 mg, 0.02 mmol) was treated with trifluoroacetic acid (500 μl, 6.49 mmol) and a solution of ammonia (7N in methanol, 500 μl, 3.50 mmol) according to the method described in Example 27 to obtain 12 mg (87% yield) of the title compound without further purification.

reactant | (S)-2-(1-((5-(1-(2-Methoxybenzyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.02 mmol, 16 mg | COC1=C(CN2N=C(C=C2)C2=CN(C=3N=CN=C(C32)N[C@@H](C)C3=NN2C(C(N3C3=CC=CC=C3)=O)=C(C=C2)C)COCC[Si](C)(C)C)C=CC=C1 | C38H43N9O3Si
reactant | trifluoroacetic acid | 6.49 mmol, 500 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 3.50 mmol, 7N, 500 μl | N | H3N
product | (S)-2-(1-((5-(1-(2-Methoxybenzyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 12 mg, 87% yield | COC1=C(CN2N=C(C=C2)C2=CNC=3N=CN=C(C32)N[C@@H](C)C3=NN2C(C(N3C3=CC=CC=C3)=O)=C(C=C2)C)C=CC=C1 | C32H29N9O2
